US05529988
Step B. N[β-(Benzyldimethylsilyl)ethyl]phthalimide
A mixture of β-(benzyldimethylsilyl)ethanol (0.84 g, 4.33 mmol), phthalimide (0.66 g, 4.5 mmol), diethylazodicarboxylate (0.783 g, 4.5 mmol) and triphenylphosphine (1.18 g, 4.5 mmol) in anhydrous tetrahydrofuran (80 ml) is stirred, under nitrogen, at room temperature for 18 hours. The solvent is removed in vacuo. The residue is taken off in toluene and the insoluble material is filtered off. The filtrate is evaporated to dryness. The residue is taken off in diethyl ether and the insoluble material is filtered off. The solvent is removed in vacuo. Chromatography (silica gel, hexane/diethyl ether-80/20) affords the title compound (0.94 g, 67% yield).

reactant | β-(benzyldimethylsilyl)ethanol | 4.33 mmol, 0.84 g | C(C1=CC=CC=C1)[Si](CCO)(C)C | C11H18OSi
reactant | phthalimide | 4.5 mmol, 0.66 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethylazodicarboxylate | 4.5 mmol, 0.783 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 4.5 mmol, 1.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | N[β-(Benzyldimethylsilyl)ethyl]phthalimide | 0.94 g, 67% yield | C(C1=CC=CC=C1)[Si](CCN1C(C=2C(C1=O)=CC=CC2)=O)(C)C | C19H21NO2Si
